US06353111B1
A solution of triphenylphosphine (847 mg, 3.2 mmol) in methylene chloride (10 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (575 mg, 3.2 mmol). The reaction mixture was stirred at 0° C. For 30 min and then treated with a solution of (E)-3-cyclohexyl-2-(3,4-difluoro-phenyl)-acrylic acid (507 mg, 1.9 mmol) in methylene chloride (4 mL). The clear solution was stirred for 10 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1 h. The reaction mixture was then treated with 2-aminothiazole (476 mg, 4.75 mmol), and the resulting suspension was stirred for 15 h at 25° C. The reaction mixture was concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (75 mL). The organic layer was washed successively with a 1N aqueous hydrochloric acid solution (2×30 mL), a saturated aqueous sodium bicarbonate solution (2×30 mL), and a saturated aqueous sodium chloride solution (1×50 mL). The organic layer was then dried over anhydrous magnesium sulfate, filtered, and, concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 8/1 to 4/1 hexanes/ethyl acetate) afforded (E)-3-cyclohexyl-2-(3,4-difluoro-phenyl)-N-thiazol-2-yl-acrylamide (520 mg, 78%) as an amorphous solid: EI-HRMS m/e calcd for C18H18F2N2OS (M+) 348.1108, found 348.1104.

reactant | triphenylphosphine | 3.2 mmol, 847 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 3.2 mmol, 575 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-3-cyclohexyl-2-(3,4-difluoro-phenyl)-acrylic acid | 1.9 mmol, 507 mg | C1(CCCCC1)/C=C(/C(=O)O)\C1=CC(=C(C=C1)F)F | C15H16F2O2
reactant | 2-aminothiazole | 4.75 mmol, 476 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-cyclohexyl-2-(3,4-difluoro-phenyl)-N-thiazol-2-yl-acrylamide | 520 mg, 78% | C1(CCCCC1)/C=C(/C(=O)NC=1SC=CN1)\C1=CC(=C(C=C1)F)F | C18H18F2N2OS
